US04279918
2-(4-chlorobenzyl)-1-cyclopropylmethylpyrrolidine
Dissolve 3.0 g of 2-(4-chlorobenzyl)-1-cyclopropylcarbonylpyrrolidine in 30 ml of tetrahydrofuran, and add the thus-prepared solution (dropwise, within 10 minutes at 0°, with stirring) to a suspension of 0.43 g of lithium aluminum hydride (=lithium hydrido-aluminate) in 10 ml of tetrahydrofuran. Subsequently, boil the resulting reaction mixture under reflux for 1 hour. After cooling, cautiously add 50 ml of water thereto and extract the product 3 times with, in each case, 30 ml of diethyl ether. Combine the ether solutions and wash the combined extract with saturated sodium chloride solution. Dry the washed ether phase over sodium sulfate, evaporate off the solvent and distil the residue twice under a vacuum to obtain 1.65 g (58% of theory) of the title compound (b.p. 108° at 0.006 mm of Hg).

reactant | 2-(4-chlorobenzyl)-1-cyclopropylcarbonylpyrrolidine | 3.0 g | ClC1=CC=C(CC2N(CCC2)C(=O)C2CC2)C=C1 | C15H18ClNO
reactant | lithium aluminum hydride | 0.43 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(4-chlorobenzyl)-1-cyclopropylmethylpyrrolidine | ClC1=CC=C(CC2N(CCC2)CC2CC2)C=C1 | C15H20ClN
